** sch_path: /home/benedikt/heichips26-FAIf/macros/heichips26_analog_project/macros/aswitch/testbenches/xschem/aswitch_tb_dc_vout.sch
**.subckt aswitch_tb_dc_vout
VDD VDD GND {VDD}
Vgsp vin GND 0
x4 GND VDD vout vin GND VDD aswitch
V1 vin vout 1m
.save i(v1)
x1 VDD VDD GND net1 GND GND aswitch
x5 VDD VDD VDD net2 GND GND aswitch
Vlgnd net1 vin 0
Vlhigh net2 vin 0
**** begin user architecture code


* .include ../../../netlist/pex/inverter_magic_pex_3.spice
.param VDD=3.3
.csparam VDD=VDD
.param Vcm=VDD/2
.csparam Vcm=Vcm
.param temp=27
.param Cload=10p
.param Rload=1k
.options savecurrents klu method=gear reltol=1e-3 abstol=1e-15 gmin=1e-15
.control

save all

* Operating Point Analysis
op
remzerovec
write aswitch_tb_dc_vout.raw
set appendwrite

* DC Sweep
dc Vgsp 0 $&VDD 1m
remzerovec
write aswitch_tb_dc_vout.raw
set appendwrite

* Plotting
plot vin vout
plot i(v1)

* Measurement
meas dc Vgsp_at_Vcm when vout=Vcm
print Vgsp_at_Vcm

* Write Data
unset appendwrite
set wr_vecnames
set wr_singlescale
wrdata ../plot_simulations/data/aswitch_tb_dc_vout.txt v(vin) v(vout)

*quit
.endc



.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerRES.lib res_typ
.lib cornerDIO.lib dio_tt

**** end user architecture code
**.ends

* expanding   symbol:  aswitch.sym # of pins=6
** sym_path: /home/benedikt/heichips26-FAIf/macros/heichips26_analog_project/macros/aswitch/schematic/xschem/aswitch.sym
** sch_path: /home/benedikt/heichips26-FAIf/macros/heichips26_analog_project/macros/aswitch/schematic/xschem/aswitch.sch
.subckt aswitch sw_b VDD b a VSS sw
*.iopin a
*.iopin sw_b
*.iopin b
*.iopin sw
*.iopin VDD
*.iopin VSS
XM1 a sw b VSS sg13_hv_nmos w=4u l=0.6u ng=2 m=1 mm_ok=1
XM2 a sw_b b VDD sg13_hv_pmos w=14u l=0.6u ng=2 m=1 mm_ok=1
XM1Dummyb a sw_b a VSS sg13_hv_nmos w=2u l=0.6u ng=1 m=1 mm_ok=1
XM3 b sw_b b VSS sg13_hv_nmos w=2u l=0.6u ng=1 m=1 mm_ok=1
XM4 a sw a VDD sg13_hv_pmos w=7u l=0.6u ng=1 m=1 mm_ok=1
XM5 b sw b VDD sg13_hv_pmos w=7u l=0.6u ng=1 m=1 mm_ok=1
.ends

.GLOBAL GND
.GLOBAL VDD
.end
